US07282588B2
Preparation of N′-(4-{1-ethyl-4-[2-(1,2,3,4-tetrahydro-7-isoquinolinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea
Following the procedure described in Example 11 using N′-(4-{4-[2-(2-acetyl-1,2,3,4-tetrahydro-7-isoquinolinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea in ethanol at 100° C. provided the title compound. ESMS [M+H]+: 507.4

reactant | N′-(4-{4-[2-(2-acetyl-1,2,3,4-tetrahydro-7-isoquinolinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(C)(=O)N1CC2=CC(=CC=C2CC1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CC)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C32H33N7O2
solvent | ethanol | C(C)O | C2H6O
product | N′-(4-{1-ethyl-4-[2-(1,2,3,4-tetrahydro-7-isoquinolinyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C1CCNCC1=C2)C2=CC=C(C=C2)NC(N(C)C)=O | C30H31N7O
